US04717416
1,2-Bis-(3,7-dichloroquinol-8-yl)-ethene
18 ml of a 15% strength solution of sodium methylate in methanol were added dropwise, at room temperature, to a suspension of 25.4 g of 3,7-dichloro-8-triphenylphosphoniummethylquinoline chloride and 11.3 g of 3,7-dichloro-8-formylquinoline in 150 ml of ethanol. The mixture was stirred for 2 hours, after which the yellow precipitate was filtered off under suction, treated with water and again filtered off under suction.

reactant | sodium methylate | C[O-].[Na+]
reactant | 3,7-dichloro-8-formylquinoline | 11.3 g | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C=O | C10H5Cl2NO
solvent | methanol | CO | CH4O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1,2-Bis-(3,7-dichloroquinol-8-yl)-ethene | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C=CC=1C(=CC=C2C=C(C=NC12)Cl)Cl | C20H10Cl4N2
